US04288443
(a) N,N-Dimethyl-3-(1-methylethyl)-2-furanmethanamine
A solution of N,N-dimethyl-3-(1-methylethyl)-2-furanecarboxamide (12 g) in dry tetrahydrofuran (250 ml) was treated with lithium aluminium hydride (4.2 g). After 1 hour water (6 ml) was added and the filtered solution evaporated in vacuo. The residue was dissolved in 1 M hydrochloric acid (100 ml) and the solution was washed with diethyl ether (100 ml). The aqueous phase was basified and extracted with diethyl ether (2×150 ml), which was dried over anhydrous sodium sulphate. The solvent was removed in vacuo to yield the title compound (7 g) as an oil.

reactant | N,N-dimethyl-3-(1-methylethyl)-2-furanecarboxamide | 12 g | CN(C(=O)C=1OC=CC1C(C)C)C | C10H15NO2
reactant | lithium aluminium hydride | 4.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 6 ml | O | H2O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | N,N-Dimethyl-3-(1-methylethyl)-2-furanmethanamine | 7 g | CN(CC=1OC=CC1C(C)C)C | C10H17NO
